US07687491B2
(15a) 3-Chloro-4-phenoxybenzoic acid
The title compound (0.95 g) was synthesized in a yield of 77% as a white crystalline solid by conducting the similar reaction to that mentioned in Example 10 (10e) using 3-chloro-4-fluorobenzaldehyde (0.80 g, 5.0 mmol), phenol (0.66 g, 7.0 mmol), potassium carbonate (1.7 g, 13 mmol), 2-methyl-2-butene (2.7 ml, 25 mmol), potassium dihydrogenphosphate (1.7 g, 13 mmol) and sodium hypochlorite (1.4 g, 15 mmol).

reactant | 3-chloro-4-fluorobenzaldehyde | 5.0 mmol, 0.80 g | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | phenol | 7.0 mmol, 0.66 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 13 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-butene | 25 mmol, 2.7 ml | CC(C)=CC | C5H10
reactant | potassium dihydrogenphosphate | 13 mmol, 1.7 g | P(=O)(O)(O)[O-].[K+]
reactant | sodium hypochlorite | 15 mmol, 1.4 g | Cl[O-].[Na+]
product | 3-Chloro-4-phenoxybenzoic acid | 0.95 g, yield of 77% | ClC=1C=C(C(=O)O)C=CC1OC1=CC=CC=C1 | C13H9ClO3
